US06307087B1
Synthesis of 2-methoxy-2′-acetylbiphenyl
An oven dried resealable Schlenk tube was evacuated and backfilled with argon and charged with palladium acetate (2.2 mg, 0.01 mmol, 1.0 mol %), 2-(di-tert-butylphosphino)biphenyl (6.0 mg, 0.020 mmol, 2.0 mol %), 2-methoxyphenylboronic acid (228 mg, 1.5 mmol), and potassium phosphate (425 mg, 2.0 mmol). The tube was evacuated and backfilled with argon, and toluene (3 mL) and 2′-chloroacetophenone (0.13 mL, 1.0 mmol) were added through a rubber septum. The tube was sealed with a teflon screwcap, and the reaction mixture was heated to 65° C. with stirring until the starting aryl chloride had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ether (30 mL) and poured into a separatory funnel. The mixture was washed with water (20 mL), and the aqueous layer was extracted with ether (20 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude material was purified by flash chromatography on silica gel to afford 201 mg (89%) of the title compound.

reactant | 2-methoxyphenylboronic acid | 1.5 mmol, 228 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium phosphate | 2.0 mmol, 425 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2′-chloroacetophenone | 1.0 mmol, 0.13 mL | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
catalyst | palladium acetate | 0.01 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.020 mmol, 6.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methoxy-2′-acetylbiphenyl | 201 mg, 89% | COC1=C(C=CC=C1)C1=C(C=CC=C1)C(C)=O | C15H14O2
